US06472386B1
Synthesis of 4-Hydroxymethyl-2-(3,4,5-trimethoxyphenyl)-thiazole
Ethyl 2-(3,4,5-trimethoxyphenyl)thiazole-4-carboxylate (6.9 g) was dissolved in THF (100 mL), and to the solution lithium aluminum hydride (810 mg) was added under an argon atmosphere, and the mixture was stirred at 0° C. for 1 hour. After a small amount of water and then sodium sulfate were added to the reaction mixture, the reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The resultant crude crystals were recrystallized from ethyl acetate-hexane to obtain the title compound.

reactant | Ethyl 2-(3,4,5-trimethoxyphenyl)thiazole-4-carboxylate | 6.9 g | COC=1C=C(C=C(C1OC)OC)C=1SC=C(N1)C(=O)OCC | C15H17NO5S
reactant | lithium aluminum hydride | 810 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-Hydroxymethyl-2-(3,4,5-trimethoxyphenyl)-thiazole | OCC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C13H15NO4S
